US08017809B2
Bis(4,4′-(phenyl-N,N-dimethylaminoethoxyboryl)phenyl) ether
The entitled compound (60 mg) was obtained by allowing 50 mg of dimethylethanolamine to act on 95 mg of bis(4,4′-(phenylhydroxyboryl)phenyl) ether.

reactant | dimethylethanolamine | 50 mg | CN(CCO)C | C4H11NO
reactant | bis(4,4′-(phenylhydroxyboryl)phenyl) ether | 95 mg | C1(=CC=CC=C1)B(O)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(O)C1=CC=CC=C1 | C24H20B2O3
product | Bis(4,4′-(phenyl-N,N-dimethylaminoethoxyboryl)phenyl) ether | C1(=CC=CC=C1)B(OCCN(C)C)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(OCCN(C)C)C1=CC=CC=C1 | C32H38B2N2O3
